US06107307
3-(naphth-2-yl)-8-azabicyclo[3.2.1]oct-2-ene
A mixture of 5.0 gm (16.3 mMol) 3-(naphth-2-yl)-8-ethoxycarbonyl-8-azabicyclo[3.2.1]oct-2-ene, 4.07 gm (81.3 mMol) hydrazine hydrate, and 5.49 gm (97.8 mMol) potassium hydroxide in 120 mL ethylene glycol was heated at reflux for 2 hours. The reaction mixture was allowed to cool gradually to room temperature. After 16 hours the reaction mixture was poured into water and extracted well with diethyl ether. The organic phase was dried over sodium sulfate and concentrated under reduced pressure. The residue was dissolved in 1N hydrochloric acid and the solution washed with diethyl ether. The aqueous phase was basified and the mixture extracted well with ethyl acetate. The organic phase was dried over sodium sulfate and concentrated under reduced pressure to provide the title compound as a yellow oil.

reactant | 3-(naphth-2-yl)-8-ethoxycarbonyl-8-azabicyclo[3.2.1]oct-2-ene | 16.3 mMol, 5.0 gm | C1=C(C=CC2=CC=CC=C12)C1=CC2CCC(C1)N2C(=O)OCC | C20H21NO2
reactant | hydrazine hydrate | 81.3 mMol, 4.07 gm | O.NN
reactant | potassium hydroxide | 97.8 mMol, 5.49 gm | [OH-].[K+]
reactant | water | O | H2O
solvent | ethylene glycol | 120 mL | C(CO)O | C2H6O2
product | 3-(naphth-2-yl)-8-azabicyclo[3.2.1]oct-2-ene | C1=C(C=CC2=CC=CC=C12)C1=CC2CCC(C1)N2 | C17H17N
